US07842685B2
DIBAL-H (1.0M in hexanes) (185 μl, 0.185 mmol) was added to a solution of 4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzonitrile (59.6 mg, 0.169 mmol) in DCM (2.7 mL) at 25° C., and the resulting solution was stirred at 25° C. for 45 min. Sat. aq. Na/K tartrate solution (3.0 mL) was added, and the resulting mixture was vigorously stirred for 15 min, then partitioned between DCM (40 mL) and sat. aq. Na/K tartrate solution (10 mL). The organic layer was separated, and the aqueous layer was extracted with DCM. The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. Chromatographic purification of the residue (silica gel, 0-100% EtOAc/Hexanes) provided 4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde as a light yellow solid. MS (ESI) m/z: Calculated: 356.1; Observed: 357.1 (M++1).

reactant | DIBAL-H | 0.185 mmol, 1.0M, 185 μl | CC(C)C[AlH]CC(C)C
reactant | 4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzonitrile | 0.169 mmol, 59.6 mg | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C2=CC=C(C#N)C=C2 | C22H15N3S
reactant | tartrate | 3.0 mL | C(=O)([O-])C(O)C(O)C(=O)[O-]
solvent | DCM | 2.7 mL | C(Cl)Cl | CH2Cl2
product | 4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C2=CC=C(C=O)C=C2 | C22H16N2OS
